US08614327B2
To a solution of 2-tert-butyl-4-ethyl-phenol (10 g, 56.1 mmol) in DCM (50 mL) was added Et3N (17 g, 168.0 mmol) and methyl chloroformate (11 g, 116.4 mmol) at 0° C. The mixture was stirred overnight at room temperature. Water was added to quench the reaction and the mixture was extracted with EtOAc (200 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered and evaporated under vacuum to give 2-tert-butyl-4-ethylphenyl methyl carbonate (12 g, 91%). 1H NMR (300 MHz, CDCl3), 7.06-7.02 (m, 2H), 7.02 (s, 1H), 3.92 (s, 3H), 2.64 (q, J=7.5 Hz, 2H), 1.37 (s, 9H), 1.54 (t, J=7.5 Hz, 3H)

reactant | 2-tert-butyl-4-ethyl-phenol | 56.1 mmol, 10 g | C(C)(C)(C)C1=C(C=CC(=C1)CC)O | C12H18O
reactant | Et3N | 168.0 mmol, 17 g | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 116.4 mmol, 11 g | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-tert-butyl-4-ethylphenyl methyl carbonate | 12 g, 91% | C(OC1=C(C=C(C=C1)CC)C(C)(C)C)(OC)=O | C14H20O3
